US04558047
[R-(R*, R*)]-α-(1-Formyl-2-hydroxyethoxy)-3,4-dihydro-2,4-dioxo-1(2H)pyrimidineacetaldehyde, (uridinedialdehyde), (4.0 g) was dissolved in a mixture of methanol (30 ml) and water (30 ml). To the solution was added 3-amino-5-methylisoxazole (1.62 g). The mixture was stirred at ambient temperature for five hours and evaporated in vacuo. The residue was triturated with acetone to give 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(5-methylisoxazol-3-yl)morpholin-2-yl]uracil (4.2 g).

reactant | α-(1-Formyl-2-hydroxyethoxy)-3,4-dihydro-2,4-dioxo-1(2H)pyrimidineacetaldehyde | 4.0 g | C(=O)C(CO)OC(C=O)N1C(NC(C=C1)=O)=O | C9H10N2O6
reactant | 3-amino-5-methylisoxazole | 1.62 g | NC1=NOC(=C1)C | C4H6N2O
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 30 ml | O | H2O
product | 1-[(2R, 6R)-3,5-dihydroxy-6-hydroxymethyl-4-(5-methylisoxazol-3-yl)morpholin-2-yl]uracil | 4.2 g | OC1N(C([C@H](O[C@H]1N1C(=O)NC(=O)C=C1)CO)O)C1=NOC(=C1)C | C13H16N4O7
